US07538101B2
Step 6: (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-[1-isopropyl-5-(piperidin-4-yloxy)-1H-indol-2-yl]-methanone
To a cold (0° C.) mixture of 4-[2-(1,1-dioxo-1λ6-thiomorpholine-4-carbonyl)-1-isopropyl-1H-indol-5-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (410 mg, 1.0 eq.) in dichloromethane (8 mL) was added dropwise trifluoroacetic acid (920 mg, 10 eq.). The mixture was stirred overnight at room temperature then concentrated in vacuo. The residue was partitioned between a potassium carbonate aqueous solution and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over sodium sulfate, filtered and dried in vacuo. The residue was then purified on silica eluting with dichloromethane/methanol/ammoniac 95:5:0.25 v:v:v. to yield 296 mg (86%) of the desired product as off-white oil. MS (m/e): 420.4 (MH+, 100%).

reactant | 4-[2-(1,1-dioxo-1λ6-thiomorpholine-4-carbonyl)-1-isopropyl-1H-indol-5-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | 410 mg, 1.0 eq. | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=C2C=C(N(C2=CC1)C(C)C)C(=O)N1CCS(CC1)(=O)=O | C26H37N3O6S
reactant | trifluoroacetic acid | 920 mg, 10 eq. | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (1,1-Dioxo-1λ6-thiomorpholin-4-yl)-[1-isopropyl-5-(piperidin-4-yloxy)-1H-indol-2-yl]-methanone | 296 mg, 86% | O=S1(CCN(CC1)C(=O)C=1N(C2=CC=C(C=C2C1)OC1CCNCC1)C(C)C)=O | C21H29N3O4S
